US06713474B2
3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-methylbutanoate (35 mg, 0.060 mmol) was dissolved in ethyl acetate (2.5 ml). Hydrogen chloride gas was passed through for 5 minutes. The flask was capped and the solution stirred for additional 30 minutes. Diethyl ether was added and precipitate formed. The solid was collected by filtration to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl (2S)-2-amino-3-methylbutanoate hydrochloride. The structure was confirmed by 1H NMR and LC/MS (MH+=486).

reactant | 3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-methylbutanoate | 0.060 mmol, 35 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)C(C)C | C33H39N5O5
reactant | Hydrogen chloride | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl (2S)-2-amino-3-methylbutanoate hydrochloride | Cl.N[C@H](C(=O)OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)C(C)C | InChI=1S/C28H31N5O3.ClH/c1-17(2)25(29)28(34)36-22-13-10-19(14-22)33-15-23(24-26(30)31-16-32-27(24)33)18-8-11-21(12-9-18)35-20-6-4-3-5-7-20;/h3-9,11-12,15-17,19,22,25H,10,13-14,29H2,1-2H3,(H2,30,31,32);1H/t19?,22?,25-;/m0./s1
